US07705053B2
Production of 3-N-(4-bromo-2-chlorophenyl)-4-methoxyisophthalamide (Compound 1-3-41)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 4-bromo-2-chloroaniline by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 4-bromo-2-chloroaniline | BrC1=CC(=C(N)C=C1)Cl | C6H5BrClN
product | 3-N-(4-bromo-2-chlorophenyl)-4-methoxyisophthalamide | BrC1=CC(=C(C=C1)NC(C=1C=C(C(=O)N)C=CC1OC)=O)Cl | C15H12BrClN2O3
